ngspice resistor/capacitor value check
* set ngbehavior=lt required in spice.rc
R1 1 0 2m5
R2 1 0 2meg5
R3 1 0 2M5
R4 1 0 2R5
R5 1 0 27R56
R6 1 0 1e5
R7 1 0 56Ohms
R8 1 0 1.7Meg
R9 1 0 1e-3wwww
R10 1 0 -1.7
V1 1 0 1
C1 1 0 1u2
C2 1 0 3m3
C3 1 0 4f7
C5 1 0 15p
C6 1 0 2200u
C7 1 0 2200u2nnn

.control
show r c
.endc

.end
